US07232819B2
Step 9: 2-[4-(dimethylamino)tetrahydro-2H-pyran-4-yl]-N-[4-fluoro-2-(methylsulfonyl)benzyl]-5,6-dihydroxypyrimidine-4-carboxamide (C-33)
A solution of 2-(4-aminotetrahydro-2H-pyran-4-yl)-N-[4-fluoro-2-(methylsulfonyl)benzyl]-5,6-dihydroxypyrimidine-4-carboxamide trifluoroacetate (C-32) in MeOH was treated with triethylamine (1 eq.), sodium acetate (1.6 eq.), formaldehyde 37% w/w aq. soln. (3 eq.), and sodium cyanoborohydride (1.43 eq.). The mixture was left stirring at room temperature for 1 h. Trifluoroacetic acid (3 eq) and sodium cyanoborohydride (0.5 eq) were added, left stirring overnight. The reaction mixture was concentrated and the title compound (C-33) as trifluoro acetate salt was obtained by preparative HPLC purification (C18, eluting with water and acetonitrile containing 0.1% trifluoroacetic acid in gradient).

reactant | 2-(4-aminotetrahydro-2H-pyran-4-yl)-N-[4-fluoro-2-(methylsulfonyl)benzyl]-5,6-dihydroxypyrimidine-4-carboxamide trifluoroacetate | FC(C(=O)O)(F)F.NC1(CCOCC1)C1=NC(=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)S(=O)(=O)C)O)O
reactant | triethylamine | 1 eq. | C(C)N(CC)CC | C6H15N
reactant | sodium acetate | 1.6 eq. | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 1.43 eq. | C(#N)[BH3-].[Na+]
reactant | Trifluoroacetic acid | 3 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium cyanoborohydride | 0.5 eq | C(#N)[BH3-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-[4-(dimethylamino)tetrahydro-2H-pyran-4-yl]-N-[4-fluoro-2-(methylsulfonyl)benzyl]-5,6-dihydroxypyrimidine-4-carboxamide | CN(C1(CCOCC1)C1=NC(=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)S(=O)(=O)C)O)O)C | C20H25FN4O6S
